US04622403
(±)-1-Hydroxy-2,3,11,12-tetrahydro-1H-benzo[b]indeno-[4,5-f]thiepin-8-carboxylic acid
Substituting an equivalent amount of 1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]-thiepin-8-carboxylic acid in Example 32 for 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]indeno[5,4-f]thiepin-6-carboxylic acid provided the title compound.

reactant | 1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]-thiepin-8-carboxylic acid | O=C1CCC=2C=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)O)C12 | C18H14O3S
reactant | 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]indeno[5,4-f]thiepin-6-carboxylic acid | O=C1CCC=2C=CC=3C(=CC=4C(SC3C12)=CCCC4)C(=O)O | C18H14O3S
product | (±)-1-Hydroxy-2,3,11,12-tetrahydro-1H-benzo[b]indeno-[4,5-f]thiepin-8-carboxylic acid | OC1CCC=2C=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)O)C12 | C18H16O3S
